US08426432B2
2,4-Diamino-5-iodopyrimidine (236 mg) was allowed to react with 1,2,3-Trimethoxy-5-(prop-2-ynyl)benzene (412 mg) as per the general procedure to afford 2,4-Diamino-5-(3-(3,4,5-trimethoxyphenyl)prop-1-ynyl)pyrimidine as a white powder (251 mg, 80%): Rf=0.23 (9:1, CHCl3:MeOH); mp=decomposed above 190° C.; 1H NMR (DMSO-d6) δ 7.84 (s, 1H), 6.71 (s, 2H), 6.26 (s, 2H), 3.80 (s, 2H), 3.77 (s, 6H), 3.63 (s, 3H); 13C NMR (DMSO-d6) δ 163.8, 162.2, 158.7, 152.8, 136.0, 132.8, 105.2, 93.1, 90.1, 76.5, 60.1, 55.8, 25.6; Anal. (C16H18N4O3) C, H, N.

reactant | 2,4-Diamino-5-iodopyrimidine | 236 mg | NC1=NC=C(C(=N1)N)I | C4H5IN4
reactant | 1,2,3-Trimethoxy-5-(prop-2-ynyl)benzene | 412 mg | COC1=C(C(=CC(=C1)CC#C)OC)OC | C12H14O3
product | 2,4-Diamino-5-(3-(3,4,5-trimethoxyphenyl)prop-1-ynyl)pyrimidine | 251 mg, 80% | NC1=NC=C(C(=N1)N)C#CCC1=CC(=C(C(=C1)OC)OC)OC | C16H18N4O3
